US07129225B2
2-benzyloxy-5-nitrobenzylalcohol
This intermediate was prepared by alkylation of 2-hydroxymethyl-4-nitrophenol with benzyl bromide following the method described for preparation of 2-methoxy-5-nitrobenzaldehyde methyl hemiacetal in a yield of 84%: MP 81–83° C.; 1H NMR δ(DMSO-d6, 500 MHz) 8.26 (d, 1H, J=2.9 Hz H-6), 8.15 (dd, 1H, J=2.9 and 9.1 Hz, H-4), 7.46 (d, 2H, J=7.0, 2′, 6′-Hs) 7.41 (dd, 2H, J=7.0 and 7.7, 3′, 5′-Hs), 7.34 (d, 1H, J=7 Hz, 4′-H), 7.25 (d, 1H, J=9.1 Hz, 3-H), 5.4 (br, 1H, OH), 5.29 (s, 2H, CH , 4.57 (s, 2H, CH2).

reactant | 2-hydroxymethyl-4-nitrophenol | OCC1=C(C=CC(=C1)[N+](=O)[O-])O | C7H7NO4
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-methoxy-5-nitrobenzaldehyde methyl hemiacetal | COC(C1=C(C=CC(=C1)[N+](=O)[O-])OC)O | C9H11NO5
product | 2-benzyloxy-5-nitrobenzylalcohol | yield of 84% | C(C1=CC=CC=C1)OC1=C(CO)C=C(C=C1)[N+](=O)[O-] | C14H13NO4
